US05455258
To a solution of 4-[[4-methoxybenzenesulfonyl](benzyl)amino]-4-carbomethoxytetrahydrothiopyran (800.0 mg, 1.9 mmol) in methanol (50 mL) is added 1N sodium hydroxide (25 mL). The mixture is heated to reflux for 10 hours, and then solid sodium hydroxide is added (3.0 g, excess) and refluxing is continued for 18 hours. The mixture is concentrated to a volume of approximately 30 mL and acidified with citric acid (pH=5). The mixture is partitioned between ethyl acetate and water. The organic layer is removed, washed with brine, dried (MgSO4), and the solvent is evaporated to give 4-[[4-methoxybenzenesulfonyl](benzyl)amino]-4-carboxytetrahydrothiopyran.

reactant | 4-[[4-methoxybenzenesulfonyl](benzyl)amino]-4-carbomethoxytetrahydrothiopyran | 1.9 mmol, 800.0 mg | COC1=CC=C(C=C1)S(=O)(=O)N(C1(CCSCC1)C(=O)OC)CC1=CC=CC=C1 | C21H25NO5S2
reactant | sodium hydroxide | 1N, 25 mL | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 4-[[4-methoxybenzenesulfonyl](benzyl)amino]-4-carboxytetrahydrothiopyran | COC1=CC=C(C=C1)S(=O)(=O)N(C1(CCSCC1)C(=O)O)CC1=CC=CC=C1 | C20H23NO5S2
